US07816391B2
Ethyl 5-tert-butyl-1-(4-chloro-3-(trifluoromethyl)phenyl)-1H-pyrazole-4-carboxylate was prepared from (Z)-ethyl 2-((dimethylamino)methylene)-4,4-dimethyl-3-oxopentanoate (Intermediate#83) and (4-chloro-3-(trifluoromethyl)phenyl)hydrazine hydrochloride by the same process used for Intermediate#116.

reactant | (Z)-ethyl 2-((dimethylamino)methylene)-4,4-dimethyl-3-oxopentanoate | CN(C)\C=C(/C(=O)OCC)\C(C(C)(C)C)=O | C12H21NO3
reactant | (4-chloro-3-(trifluoromethyl)phenyl)hydrazine hydrochloride | Cl.ClC1=C(C=C(C=C1)NN)C(F)(F)F
product | Ethyl 5-tert-butyl-1-(4-chloro-3-(trifluoromethyl)phenyl)-1H-pyrazole-4-carboxylate | C(C)(C)(C)C1=C(C=NN1C1=CC(=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C17H18ClF3N2O2
